US06451816B1
3-(1-Benzylpiperidin-4-yloxy)-propylamine
10.0 g (40.9 mmol) 3-(1-benzylpiperidin-4-yloxy)-propionitrile are dissolved in 100 ml ethanol and added to a spatula tip of Raney-Nickel. The mixture is stirred at RT under hydrogen atmosphere until the uptake of the theoretical amount of hydrogen (ca. 2 days). The mixture is filtered from the catalyst and the solvent is removed under vacuum. The residue is distilled in a ball-pipe apparatus. Yield of colorless oil: 7.5 g (73%)

reactant | 3-(1-benzylpiperidin-4-yloxy)-propionitrile | 40.9 mmol, 10.0 g | C(C1=CC=CC=C1)N1CCC(CC1)OCCC#N | C15H20N2O
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | Raney-Nickel | [Ni] | Ni
product | 3-(1-Benzylpiperidin-4-yloxy)-propylamine | C(C1=CC=CC=C1)N1CCC(CC1)OCCCN | C15H24N2O
